US04840869
11 g of 2-hydroxy-4-methoxybenzaldehyde, 20.3 g of ethyl bromomalonate, 12.3 g of potassium carbonate, and 51 ml of methyl-ethyl ketone were put into a three-necked flask, and refluxed to hold the reaction thereof for 6 hours. After that to this was added a methanol solution of potassium hydroxide, and at a point of time of completion of the hydrolysis reaction, the hydrolyzed product was put into an aqueous hydro chloric acid solution, and then filtered, whereby a 6-methoxy-benzofuran-2-carboxylic acid having a melting point between 208° C. and 211° C. was obtained.

reactant | 2-hydroxy-4-methoxybenzaldehyde | 11 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | ethyl bromomalonate | 20.3 g | BrC(C(=O)OCC)C(=O)[O-]
reactant | potassium carbonate | 12.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydro chloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methyl-ethyl ketone | 51 ml | CC(=O)CC | C4H8O
product | 6-methoxy-benzofuran-2-carboxylic acid | COC1=CC2=C(C=C(O2)C(=O)O)C=C1 | C10H8O4
